US05780636
A stirred suspension of (1R,2R)-2-(3-pyridyl)tetrahydro-2H-thiopyran 1-oxide (50.0 g) in dry tetrahydrofuran (500 ml) is treated with a solution of lithium bis(trimethylsilyl)amide in tetrahydrofuran (281 ml;1M) at between -5° C. and +5° C. The resulting suspension is stirred for 15 minutes at between -5° C. and +50C. and then it is treated with a solution of methyl isothiocyanate (20.26 g) in dry tetrahydrofuran (63 ml) at between -5° C. and +50C. The mixture is stirred at between -5° C. and +5° C. for 30 minutes and then it is treated with water (500 ml). The aqueous phase is then washed with dichloromethane (2×150 ml), The aqueous solution is then treated with charcoal, filtered, neutralised by treatment with dilute hydrochloric acid (2N) and filtered, to give (1R,2R)-2-(3-pyridyl)-N-methyltetrahydro-2H-thiopyran-2-carbothioamide 1-oxide (50.64 g), in the form of a white powder, m.p. 215°-216° C., enantiomeric excess greater than 99.6%. [NMR (CDCl3):- 1.6(m,1H), 1.7(m,2H),2.2(m, 1H),2.3(m, 1H),2.9(m,1H), 3.0(m,1H),3.1 (d,3H),3.7(m,1H),7.3(m,1H), 8.1 (m,1H),8.3(m,1H),8.5(m,1H),8.7(m,1H)]; specific rotations (sodium D line) -205° (c=1, 28° C., CHCl3); -281° (c=1, 31° C., EtOH).

reactant | (1R,2R)-2-(3-pyridyl)tetrahydro-2H-thiopyran 1-oxide | 50.0 g | N1=CC(=CC=C1)[C@@H]1[S@@](CCCC1)=O | C10H13NOS
reactant | lithium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | methyl isothiocyanate | 20.26 g | CN=C=S | C2H3NS
reactant | water | 500 ml | O | H2O
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1M, 281 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 63 ml | O1CCCC1 | C4H8O
product | (1R,2R)-2-(3-pyridyl)-N-methyltetrahydro-2H-thiopyran-2-carbothioamide 1-oxide | 50.64 g | N1=CC(=CC=C1)[C@@]1([S@@](CCCC1)=O)C(NC)=S | C12H16N2OS2
